US08981111B2
Preparation of pentyl{4-[({[(4-methyl-1,3-oxazol-5-yl)(phenyl)methylene]amino}oxy)methyl]-1,3-thiazol-2-yl}carbamate (Compound 321) according to process P2
To a stirred solution of 4-[({[(4-methyl-1,3-oxazol-5-yl)(phenyl)methylene]amino}oxy)methyl]-1,3-thiazol-2-amine (95 mg, 0.3 mmol) in dichloromethane (2 mL) were added pyridine (36 mg, 0.45 mmol) and after 15 min stirring pentyl carbonochloridoate (91 mg, 0.6 mmol). After stirring at room temperature for 4 h the mixture was passed through a cartridge filled with basic alumina and 1 g silica. After rinsing with dichloromethane the final compound was eluted with heptane/ethylacetate (1/1) to afford after purification on silica pentyl {4-[({[(4-methyl-1,3-oxazol-5-yl)(phenyl)methylene]amino}oxy) methyl]-1,3-thiazol-2-yl}carbamate (60 mg, 44%).

reactant | 4-[({[(4-methyl-1,3-oxazol-5-yl)(phenyl)methylene]amino}oxy)methyl]-1,3-thiazol-2-amine | 0.3 mmol, 95 mg | CC=1N=COC1C(C1=CC=CC=C1)=NOCC=1N=C(SC1)N | C15H14N4O2S
reactant | pyridine | 0.45 mmol, 36 mg | N1=CC=CC=C1 | C5H5N
reactant | pentyl carbonochloridoate | 0.6 mmol, 91 mg | C(OCCCCC)(=O)Cl | C6H11ClO2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | pentyl{4-[({[(4-methyl-1,3-oxazol-5-yl)(phenyl)methylene]amino}oxy)methyl]-1,3-thiazol-2-yl}carbamate | C(CCCC)OC(NC=1SC=C(N1)CON=C(C1=CC=CC=C1)C1=C(N=CO1)C)=O | C21H24N4O4S
